US04241058
2.9 Kg. of 1-[3-(p-tert.-butyl-phenyl)-2-methyl-1-propenyl]-piperidine are taken up in 1.4 liters of toluene, treated under an atmosphere of nitrogen with 144.8 g. of 5% palladium/carbon and hydrogenated at 35° C. until the hydrogen uptake has been completed. The catalyst is removed by filtration, the toluene is evaporated in vacuo and the residue is distilled. There is obtained pure 1-[3-(p-tert.-butyl-phenyl)-2-methyl-propyl]-piperidine, having a boiling point of 125° C./0.045 Torr.

reactant | 1-[3-(p-tert.-butyl-phenyl)-2-methyl-1-propenyl]-piperidine | C(C)(C)(C)C1=CC=C(C=C1)CC(=CN1CCCCC1)C | C19H29N
reactant | hydrogen | [H][H] | H2
solvent | toluene | 1.4 liters | C1(=CC=CC=C1)C | C7H8
catalyst | palladium/carbon | [Pd] | Pd
product | 1-[3-(p-tert.-butyl-phenyl)-2-methyl-propyl]-piperidine | C(C)(C)(C)C1=CC=C(C=C1)CC(CN1CCCCC1)C | C19H31N
